US06107329
(S)-[1-Benzyl-2-oxo-2-(3-oxo-pyrrolidin-1-yl)-ethyl]-carbamic acid tert-butyl ester
A solution of dimethyl sulfoxide (4.07 g, 52 mmol) and oxalyl chloride (3.61 g, 28 mmol) were added slowly in that order to dichloromethane (50 ml) at -78° C. (S)-[1-Benzyl-2-(3-hydroxy-pyrrolidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester (24 mmol) in dichloromethane (30 ml) was added to the above solution via canula, the reaction temperature brought to -30° C. for 0.5 hours, then lowered to -78° C. followed by the addition of triethylamine (118 mmol). The reaction was then warmed to 25° C., diluted with ethyl acetate, washed three times with 1:1 saturated NaHCO3 /brine, the organics dried over MgSO4 and concentrated. The resulting foam was purified by chromatography on silica gel eluted with 30, 40 and 50% ethyl acetate in hexanes to give a light yellow foam (7.5 g, 95% yield).

reactant | dimethyl sulfoxide | 52 mmol, 4.07 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 28 mmol, 3.61 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (S)-[1-Benzyl-2-(3-hydroxy-pyrrolidin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | 24 mmol | C(C)(C)(C)OC(N[C@H](C(=O)N1CC(CC1)O)CC1=CC=CC=C1)=O | C18H26N2O4
reactant | triethylamine | 118 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (S)-[1-Benzyl-2-oxo-2-(3-oxo-pyrrolidin-1-yl)-ethyl]-carbamic acid tert-butyl ester | 7.5 g, 95% yield | C(C)(C)(C)OC(N[C@H](C(N1CC(CC1)=O)=O)CC1=CC=CC=C1)=O | C18H24N2O4
